US09108983B2
Step E: 5-[(tert-Butoxycarbonylamino)methyl]-2-iodo-benzoic acid
Methyl 5-(aminomethyl)-2-iodo-benzoate hydrobromide (0.56 g; 1.5 mmol) was dissolved in pyridine (10 mL), then di-tert-butyl dicarbonate (0.80 g; 3.6 mmol) is added and the mixture is stirred at ambient temperature for 30 minutes and then evaporated to dryness. The residue is redissolved in methanol (10 mL), and then 2M aqueous NaOH solution (3 mL) and 2 mL of water are added. The resulting solution is stirred for 2 hours at 50° C., then diluted with water (20 mL), and the methanol is evaporated off under reduced pressure. The pH of the resulting aqueous solution is adjusted to 3 with 2M aqueous HCl solution; the product is then extracted with ethyl acetate. The organic phase is washed with brine, and then dried over Na2SO4 and evaporated to dryness. The crude product is triturated with DCM. The solid formed is recovered by filtration to yield the title compound.

reactant | Methyl 5-(aminomethyl)-2-iodo-benzoate hydrobromide | 1.5 mmol, 0.56 g | Br.NCC=1C=CC(=C(C(=O)OC)C1)I
reactant | di-tert-butyl dicarbonate | 3.6 mmol, 0.80 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 5-[(tert-Butoxycarbonylamino)methyl]-2-iodo-benzoic acid | C(C)(C)(C)OC(=O)NCC=1C=CC(=C(C(=O)O)C1)I | C13H16INO4
